US06242449B1
Ethyl 4-{3-[4-amino-3-(3-chloropropoxy)benzoyl]indol-1-yl}butanoate (22.8 g) was dissolved in N,N-dimethylformamide (115 ml), and 1-(2-methoxyphenyl)piperazine hydrochloride (12.9 g), potassium iodide (17.1 g), potassium carbonate (17.8 g) were added to the solution. The thus-produced mixture was stirred at 90° C. for one hour. The reaction mixture was cooled and diluted with ethyl acetate (200 ml). The formed solution was sequentially washed with water and saturated brine, and dried. The solution was concentrated under reduced pressure. A′4N solution (28 ml) of hydrochloric acid in dioxane was added to the residue, and crystals so precipitated were collected by filtration. The collected crystals were recrystallized from ethanol, to thereby obtain 27.4 g of ethyl 4-{3-{4-amino-3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propoxy}benzoyl}indol-1-yl}butanoate hydrochloride as yellow crystals.

reactant | Ethyl 4-{3-[4-amino-3-(3-chloropropoxy)benzoyl]indol-1-yl}butanoate | 22.8 g | NC1=C(C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1)OCCCCl | C24H27ClN2O4
reactant | 1-(2-methoxyphenyl)piperazine hydrochloride | 12.9 g | Cl.COC1=C(C=CC=C1)N1CCNCC1
reactant | potassium iodide | 17.1 g | [I-].[K+]
reactant | potassium carbonate | 17.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 115 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 4-{3-{4-amino-3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propoxy}benzoyl}indol-1-yl}butanoate hydrochloride | 27.4 g | Cl.NC1=C(C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1)OCCCN1CCN(CC1)C1=C(C=CC=C1)OC | InChI=1S/C35H42N4O5.ClH/c1-3-43-34(40)14-8-18-39-25-28(27-10-4-5-11-30(27)39)35(41)26-15-16-29(36)33(24-26)44-23-9-17-37-19-21-38(22-20-37)31-12-6-7-13-32(31)42-2;/h4-7,10-13,15-16,24-25H,3,8-9,14,17-23,36H2,1-2H3;1H
